US04535139
Mass copolymerization of vinyl acetate/2-methoxysulphonyl propenoic acid methyl ester
After tempering at 65° C. and an increase in the viscosity of the mixture, a solution of 80 g of vinyl acetate, 20 g of 2-methoxysulphonyl propenoic acid methyl ester (11 mole percent) and 0.4 g of 2,2'-azo-bis-isobutyronitrile was added over a period of 1 hour.

reactant | vinyl acetate | 80 g | C(C)(=O)OC=C | C4H6O2
reactant | 2-methoxysulphonyl propenoic acid methyl ester | 20 g | COC(C(=C)S(=O)(=O)OC)=O | C5H8O5S
reactant | 2,2'-azo-bis-isobutyronitrile | 0.4 g | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | vinyl acetate 2-methoxysulphonyl propenoic acid methyl ester | C(C)(=O)OC=C.COC(C(=C)S(=O)(=O)OC)=O | InChI=1S/C5H8O5S.C4H6O2/c1-4(5(6)9-2)11(7,8)10-3;1-3-6-4(2)5/h1H2,2-3H3;3H,1H2,2H3
